US08633173B2
N-{4-[2-({4-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}amino)[1,2,4]triazolo[1,5-a]pyridin-8-yl]phenyl}-N-methylmethanesulfonamide was prepared from N-[4-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide (75.0 mg, 0.236 mmol) and 4-(4-bromo-benzyl)-thiomorpholine 1,1-dioxide (80.0 mg, 0.263 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as an orange solid (0.083 g, 65%). MP=177-180° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.45 (dd, J=6.7, 1.1 Hz, 1H), 8.04 (d, J=8.6 Hz, 2H), 7.60-7.52 (m, 5H), 7.28 (d, J=8.5 Hz, 2H), 7.00 (t, J=6.9 Hz, 1H), 6.89 (s, 1H), 3.62 (s, 2H), 3.39 (s, 3H), 3.08-2.96 (m, 8H), 2.90 (s, 3H). MS=541 (MH)+.

reactant | N-[4-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide | 0.236 mmol, 75.0 mg | NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)N(S(=O)(=O)C)C)=N1 | C14H15N5O2S
reactant | 4-(4-bromo-benzyl)-thiomorpholine 1,1-dioxide | 0.263 mmol, 80.0 mg | BrC1=CC=C(CN2CCS(CC2)(=O)=O)C=C1 | C11H14BrNO2S
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-{4-[2-({4-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}amino)[1,2,4]triazolo[1,5-a]pyridin-8-yl]phenyl}-N-methylmethanesulfonamide | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)N(S(=O)(=O)C)C)=N1)=O | C25H28N6O4S2
